US08703761B2
A. Methyl 2-methyl-2-((4-nitrophenoxy)carbonylamino)propanoate
To a solution of Methyl 2-amino-2-methylpropanoate (5 g, 32 mmol) and N-Methyl morpholine (11 mL, 98 mmol) in DCM (30 mL) was added in one portion 4-nitrophenyl chloroformate (9.8 g, 49 mmol). Diluted reaction with DCM (50 mL) washed with 1N HCl (2×20 mL) and sat. NaHCO3 (2×20 mL), dried organic fraction over magnesium sulfate, filtered and evaporated volatiles in vacuo.

reactant | Methyl 2-amino-2-methylpropanoate | 32 mmol, 5 g | NC(C(=O)OC)(C)C | C5H11NO2
reactant | N-Methyl morpholine | 98 mmol, 11 mL | CN1CCOCC1 | C5H11NO
reactant | 4-nitrophenyl chloroformate | 49 mmol, 9.8 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-methyl-2-((4-nitrophenoxy)carbonylamino)propanoate | CC(C(=O)OC)(C)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O6
